US09445594B2
Preparation of benzyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate (C15)
To a 5.0 mL vial, [1,1′-bis(di-tert-butylphosphino)ferrocene]dichloropalladium(II) (0.011 mg, 0.017 mmol), and potassium phosphate (0.14 g, 0.65 mmol) were charged as solids. The vial was sealed with a septum and placed under nitrogen. A solution of 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (WO 2013/009791) (0.10 g, 0.33 mmol) and benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate (0.13 g, 0.36 mmol) in dioxane (1.8 mL) was added followed by water (0.45 mL). The reaction mixture was evacuated with vacuum and purged with nitrogen and placed in a pre-heated heating block that at 75° C. for 18 hours. The reaction mixture was then poured into brine solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated. The resulting residue was purified via flash chromatography using 15-80% ethyl acetate/hexanes as eluent to afford the title compound as a white solid (0.13 g, 87%): 1H NMR (400 MHz, DMSO-d6) δ 9.40 (s, 1H), 8.16-8.01 (m, 4H), 7.91 (t, J=6.2 Hz, 1H), 7.67-7.58 (m, 2H), 7.48-7.15 (m, 7H), 5.07 (s, 2H), 4.28 (d, J=6.2 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 469 ([M+H]+).

reactant | potassium phosphate | 0.65 mmol, 0.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.33 mmol, 0.10 g | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C9H5BrF3N3O
reactant | benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | 0.36 mmol, 0.13 g | CC1(OB(OC1(C)C)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)C | C21H26BNO4
reactant | water | 0.45 mL | O | H2O
solvent | dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(di-tert-butylphosphino)ferrocene]dichloropalladium(II) | 0.017 mmol, 0.011 mg | CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.Cl[Pd]Cl.[Fe]
product | benzyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate | 0.13 g, 87% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)(F)F | C24H19F3N4O3
